US04666915
A mixture of ethyl 1,6-dihydro-2-methylthio-6-oxo-5-pyrimidinecarboxylate (5 g) and aniline (2.6 g) is heated without solvent at 130° C. for 1 hour. After cooling, the resulting solid is pulverized and recrystallized from DMSO to give ethyl 2-anilino-1,6-dihydro-6-oxo-5-pyrimidinecarboxylate (3.7 g). M.p. 267°-269° C.

reactant | ethyl 1,6-dihydro-2-methylthio-6-oxo-5-pyrimidinecarboxylate | 5 g | CSC=1NC(C(=CN1)C(=O)OCC)=O | C8H10N2O3S
reactant | aniline | 2.6 g | NC1=CC=CC=C1 | C6H7N
product | ethyl 2-anilino-1,6-dihydro-6-oxo-5-pyrimidinecarboxylate | 3.7 g | N(C1=CC=CC=C1)C=1NC(C(=CN1)C(=O)OCC)=O | C13H13N3O3
